US04147780
The procedure described in Example 36B was repeated using DL-1-benzhydrylamino-2-(indol-3-yl)-ethanephosphonous acid instead of DL-1-benzhydrylamino-2-methylpropanephosphonous acid to give DL-1-amino-2-(indol-3-yl)-ethanephosphonous acid.

reactant | 1-benzhydrylamino-2-(indol-3-yl)-ethanephosphonous acid | C(C1=CC=CC=C1)(C1=CC=CC=C1)NC(CC1=CNC2=CC=CC=C12)P(O)O | C23H23N2O2P
reactant | 1-benzhydrylamino-2-methylpropanephosphonous acid | C(C1=CC=CC=C1)(C1=CC=CC=C1)NC(C(C)C)P(O)O | C17H22NO2P
product | 1-amino-2-(indol-3-yl)-ethanephosphonous acid | NC(CC1=CNC2=CC=CC=C12)P(O)O | C10H13N2O2P
